US07229999B2
Step 1: 6-Benzylamino-5-bromo-nicotinic acid
A mixture of 0.3 g (1.27 mmol) 5-bromo-6-chloro-nicotinic acid methylester and 0.34 g (3.17 mmol) benzylamine in 0.4 mL DMSO was heated to 160° C. in the microwave for 4 min. 0.6 mL water and 0.4 mL 5N KOH aq was added and heated to 160° C. in the microwave for 2 min. Acetic acid and DMF was added and the mixture was purified by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile/water/HCOOH. The combined product fractions were evaporated to yield 0.195 g (50%) of the title compound. MS (m/e): 307.1 (M−H).

reactant | 5-bromo-6-chloro-nicotinic acid methylester | 1.27 mmol, 0.3 g | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | benzylamine | 3.17 mmol, 0.34 g | C(C1=CC=CC=C1)N | C7H9N
reactant | water | 0.6 mL | O | H2O
reactant | KOH | 5N, 0.4 mL | [OH-].[K+]
solvent | DMSO | 0.4 mL | CS(=O)C | C2H6OS
solvent | DMF | CN(C)C=O | C3H7NO
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | 6-Benzylamino-5-bromo-nicotinic acid | 0.195 g, 50% | C(C1=CC=CC=C1)NC1=NC=C(C(=O)O)C=C1Br | C13H11BrN2O2
